US08420052B2
Tert-butyl 4-(2-(2-fluoroethylthio)benzo[d]thiazol-6-yl)phenyl(methyl)carbamate (15 mg, 0.036 mmol) was treated with 3 mL of 4 M HCl dioxane solution for 2 h and concentrated. The crude product was purified with RP-HPLC (20% to 80% TFA buffered MeCN in water) to afford 4-(2-(2-fluoroethylthio)benzo[d]thiazol-6-yl)-N-methylaniline as a yellow wax (4 mg, 25%). 1H NMR (400 MHz, CDCl3) δ 7.84 (d, J=8.4 Hz, 1 H), 7.81 (d, J=1.6 Hz, 1 H), 7.58-7.56 (m, 2 H), 7.53 (dd, J=8.8, 2.0 Hz, 1 H), 7.34-7.32 (m, 2 H), 4.86 (t, J=6.4 Hz, 11 H), 4.74 (t, J=6.4 Hz, 1 H), 3.73 (t, J=6.4 Hz, 1 H), 3.68 (t, J=6.4 Hz, 1 H), 3.02 (s, 3 H); MS (ESI) m/z 319 (M+H+).

reactant | Tert-butyl 4-(2-(2-fluoroethylthio)benzo[d]thiazol-6-yl)phenyl(methyl)carbamate | 0.036 mmol, 15 mg | FCCSC=1SC2=C(N1)C=CC(=C2)C2=CC=C(C=C2)N(C(OC(C)(C)C)=O)C | C21H23FN2O2S2
reactant | HCl dioxane | 4 M, 3 mL | O1CCOCC1.Cl
product | 4-(2-(2-fluoroethylthio)benzo[d]thiazol-6-yl)-N-methylaniline | FCCSC=1SC2=C(N1)C=CC(=C2)C2=CC=C(NC)C=C2 | C16H15FN2S2
